US08211904B2
Step 1: methyl 1-isopropyl-1H-indole-6-carboxylate
To a solution of methyl 1H-indole-6-carboxylate (5.00 g, 28.5 mmol) and cesium carbonate (18.6 g, 57.1 mmol) in DMPU (50 mL) was added 2-iodopropane (3.71 mL, 37.1 mmol). After stirring at 80° C. for 4 h, the solution was cooled to rt, poured onto ether, washed with H2O (three times) and brine, dried with Na2SO4, and concentrated. The crude compound was chromatographed to give the desired product. LCMS (M+1)=218.1

reactant | methyl 1H-indole-6-carboxylate | 28.5 mmol, 5.00 g | N1C=CC2=CC=C(C=C12)C(=O)OC | C10H9NO2
reactant | cesium carbonate | 57.1 mmol, 18.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-iodopropane | 37.1 mmol, 3.71 mL | IC(C)C | C3H7I
solvent | DMPU | 50 mL | CN1CCCN(C1=O)C | C6H12N2O
product | methyl 1-isopropyl-1H-indole-6-carboxylate | C(C)(C)N1C=CC2=CC=C(C=C12)C(=O)OC | C13H15NO2
